US06689922B1
b) Ethyl (E)-5-(3-Methoxymethoxyphenyl)hex-4-en-2-ynoate
764 mg (3.78 mmol) of 1-methoxymethoxy-3-((E)-1-methylbut-1-en-3-ynyl)benzene are dissolved in 20 ml of anhydrous THF and the solution is cooled to −78° C. 1.8 ml (4.5 mmol) of a 2.5M butyllithium solution are then added dropwise and the reaction medium is stirred for 30 minutes at this temperature. 0.43 ml (4.5 mmol) of ethyl chloroformate are then added dropwise and then the reaction medium is brought to room temperature and stirred for 2 hours. After treating with a saturated ammonium chloride solution and extracting with ethyl acetate, the organic phase is dried and then concentrated under reduced pressure. After purification by chromatography on a silica column (ethyl acetate 10-heptane 90), a yellow oil is obtained (m=836 mg; Y=81%).

reactant | 1-methoxymethoxy-3-((E)-1-methylbut-1-en-3-ynyl)benzene | 3.78 mmol, 764 mg | COCOC1=CC(=CC=C1)\C(=C\C#C)\C | C13H14O2
reactant | butyllithium | 2.5M | C(CCC)[Li]
reactant | ethyl chloroformate | 4.5 mmol, 0.43 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Ethyl (E)-5-(3-Methoxymethoxyphenyl)hex-4-en-2-ynoate | COCOC=1C=C(C=CC1)/C(=C/C#CC(=O)OCC)/C | C16H18O4
